US07696223B2
b) 2,3-Dibromo-4-hydroxy-1-(4-methoxy-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared similarly according to a reaction sequence in Example 3 steps (a), (b), and (c) for the synthesis of 2,3-dibromo-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester starting from 1-(4-Methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester. The title compound, ESI MS (m/z): 469 (M+H)+.

reactant | 2,3-dibromo-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)C2=CC=CC=C2)O | C16H12Br2N2O3
reactant | 1-(4-Methoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C=C1)C1=CC=C(C=C1)OC)C | C15H17NO3
product | 2,3-Dibromo-4-hydroxy-1-(4-methoxy-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)C2=CC=C(C=C2)OC)O | C17H14Br2N2O4
